US08236319B2
4-((5-nitropyridin-2-yl)disulfanyl)-2-sulfobutanoic acid
3.0 g (11.7 mmol) of 4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid in 100 ml of water was added 50 ml of 3 M NaOH. After being stirred under Ar for 3 h, the mixture was neutralized with 1 M H2PO4 to pH 7.2 under Ar. The mixture was added dropwise to the solution of 10.0 g (32.2 mmol) of 1,2-bis(5-nitropyridin-2-yl)disulfane in 200 ml of DMA. After being stirred for 4 h under Ar, the mixture was concentrated, diluted with water, filtered, evaporated and purified with C-18 4.0×20 cm column eluted with water/methanol (95:5) to afford 3.1 g (75% yield) of the title compound. m.p.=288˜291° C. (decomp.) 1H NMR (DMF-d7) 9.29 (d, 1H, J=2.2 Hz), 8.63 (dd, 1H, J=2.7, 8.9 Hz), 8.17 (d, 1H, J=8.9 Hz), 3.73 (t, 1H, J=7.2 Hz), 3.22˜3.17 (m, 1H), 3.15˜3.10 (m, 1H), 2.41˜2.33 (m, 2H); 13C NMR 170.92, 169.10, 146.04, 143.67, 133.65, 120.72, 64.22, 37.82, 29.26; MS m/z−352.8 (M−H).

reactant | 4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid | 11.7 mmol, 3.0 g | C(C)(=O)SCCC(C(=O)OC)S(=O)(=O)O | C7H12O6S2
reactant | NaOH | 3 M, 50 ml | [OH-].[Na+]
reactant | 1,2-bis(5-nitropyridin-2-yl)disulfane | 32.2 mmol, 10.0 g | [N+](=O)([O-])C=1C=CC(=NC1)SSC1=NC=C(C=C1)[N+](=O)[O-] | C10H6N4O4S2
solvent | water | 100 ml | O | H2O
solvent | DMA | 200 ml | CC(=O)N(C)C | C4H9NO
product | 4-((5-nitropyridin-2-yl)disulfanyl)-2-sulfobutanoic acid | 3.1 g, 75% yield | [N+](=O)([O-])C=1C=CC(=NC1)SSCCC(C(=O)O)S(=O)(=O)O | C9H10N2O7S3
